US08748624B2
STEP B: methyl 5-(5-chloro-2-methylphenyl)picolinate
Methyl 5-bromopicolinate (5.0 g, 23.1 mmol), (5-chloro-2-methylphenyl)boronic acid (4.5 g, 26.6 mmol), Pd(dppf)Cl2 (1.9 g, 2.3 mmol), and K2CO3 (6.4 g, 46.3 mmol) were dissolved in 1,4-dioxane (100 mL) and water (25 mL) and the resulting mixture was heated to 80° C. After 16 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | Methyl 5-bromopicolinate | 23.1 mmol, 5.0 g | BrC=1C=CC(=NC1)C(=O)OC | C7H6BrNO2
reactant | (5-chloro-2-methylphenyl)boronic acid | 26.6 mmol, 4.5 g | ClC=1C=CC(=C(C1)B(O)O)C | C7H8BClO2
reactant | K2CO3 | 46.3 mmol, 6.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 25 mL | O | H2O
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 2.3 mmol, 1.9 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 5-(5-chloro-2-methylphenyl)picolinate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)OC)C | C14H12ClNO2
